US04324790
A mixture of 11.88 g of 3-(1,2,3,6-tetrahydro-4-pyridinyl)-5-nitro-1H-indole hydrochloride, 148 ml of dimethylformamide, 12.72 g of sodium carbonate and 4.8 ml of chloromethylcyclopropane was stirred at 70° C. under an inert atmosphere for 23 hours and the mixture was cooled. 450 ml of distilled water were added to the mixture which was then stirred for one hour and was vacuum filtered. The recovered product was rinsed with water and dried to obtain 10.8 g of raw product. The latter was chromatographed over silica gel and was eluted with a 6-3-1 chloroform-acetone-triethylamine mixture to obtain 8.3 g of 3-(1-cyclopropylmethyl-1,2,3,6-tetrahydro-4-pyridinyl)-5-nitro-1H-indole melting at 187°-188° C.

reactant | 3-(1,2,3,6-tetrahydro-4-pyridinyl)-5-nitro-1H-indole hydrochloride | 11.88 g | Cl.N1CCC(=CC1)C1=CNC2=CC=C(C=C12)[N+](=O)[O-]
reactant | dimethylformamide | 148 ml | CN(C=O)C | C3H7NO
reactant | sodium carbonate | 12.72 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | chloromethylcyclopropane | 4.8 ml | ClCC1CC1 | C4H7Cl
solvent | water | 450 ml | O | H2O
product | 3-(1-cyclopropylmethyl-1,2,3,6-tetrahydro-4-pyridinyl)-5-nitro-1H-indole | 8.3 g | C1(CC1)CN1CCC(=CC1)C1=CNC2=CC=C(C=C12)[N+](=O)[O-] | C17H19N3O2
